US05360802
Step 3: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[ 3-(1,1-dimethylethylcarbonylaminosulphonyl)phenyl]urea
The title compound was prepared in the same way as that described in Example 11, Step 4, using 5-cyclohexyl-1,3-dihydro-1-methyl3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (0.3 g, 0.69 mmol), triethylamine (96 μl, 0.69 mmol), dimethylformamide (6 ml) and 1-(1,1-dimethylethylcarbonylaminosulphonyl)-3-aminobenzene (194 mg, 0.76 mmol). After trituration with hot methanol, the title compound (0.15 g, 39%) was afforded as a colourless solid. mp 235° C. (dec.). 1H NMR (360 MHz, D6-DMSO) δ 3 0.84-0.98 (1H, m), 1.04(9H, s), 1.06-1.40 (4H, m), 1.41-1.68 (3H, m), 1.73-1.82 (1H, m), 1.88-1.96 (1H, m), 2.89-3.00 (1H, m), 3.33 (3H, s), 5.06 (1H, d, J=8.3 Hz), 7.32-7.50 (4H, m), 7.52-7.58 (2H, m), 7.64 (1H, t, J=7.0 Hz), 7.75 (1H, d, J=7.9 Hz), 8.03 (1H, s), 9.39 (1H, s), 11.62 (1H, brs).

reactant | 5-cyclohexyl-1,3-dihydro-1-methyl3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 0.69 mmol, 0.3 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 0.69 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 1-(1,1-dimethylethylcarbonylaminosulphonyl)-3-aminobenzene | 0.76 mmol, 194 mg | CC(C)(C(=O)NS(=O)(=O)C1=CC(=CC=C1)N)C | C11H16N2O3S
solvent | methanol | CO | CH4O
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[ 3-(1,1-dimethylethylcarbonylaminosulphonyl)phenyl]urea | 0.15 g, 39% | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)S(=O)(=O)NC(=O)C(C)(C)C | C28H35N5O5S
